US06476053B1
2-Amino-3-(3-methyl-1-nonyl-2,5-dioxo-pyrrolidin-3-ylthio)propanoic acid
DL-Cysteine (0.0067 M) was dissolved in potassium acetate (50 mM) and the solution obtained was added slowly to N-nonyl itaconimide (0.004 M) prepared as described in Example 6 above. The reaction mixture was then dissolved in dimethylformamide with gentle stirring and triethylamine was added. Stirring was continued for a further four hours at room temperature. The progress of the reaction was monitored by reverse phase thin layer chromatography using 75% methanol in water system. The formation of the desired product was detected by the ninhydrin reaction.

reactant | DL-Cysteine | 0.0067 M | NC(CS)C(=O)O | C3H7NO2S
reactant | N-nonyl itaconimide | 0.004 M | C(CCCCCCCC)N1C(C(=C)CC1=O)=O | C14H23NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | potassium acetate | 50 mM | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-Amino-3-(3-methyl-1-nonyl-2,5-dioxo-pyrrolidin-3-ylthio)propanoic acid | NC(C(=O)O)CSC1(C(N(C(C1)=O)CCCCCCCCC)=O)C | C17H30N2O4S
